US05243055
Preparation of N'-(2-THIAZOLYL)-N-METHYL-N-PHENYLFORMAMIDINE, 1.
To a stirred suspension of N-methylformanilide (67.6 g; 0.50 mole), toluene (25 g) and 2-aminothiazole (2.0 g; 0.02 mole) was added phosphorus oxychloride (45.8 mL; 0.50 mole) over 15 minutes. The temperature was maintained below 45° C. during this addition. Stirring was continued for 10 minutes, after which time a hot solution of 2-aminothiazole (48.0 g; 0.48 mole) in toluene (250 g) was added at 60°-65° C. over 45 minutes. The reaction was allowed to cool to room temperature with stirring and was quenched by dropwise addition into a mixture of 30% sodium hydroxide (325 g) and ice (300 g). The organic phase was washed with a mixture of water (100 g), sodium chloride (10 g), and sodium bicarbonate (7.5 g), followed by a saturated solution of sodium chloride (125 g); the resultant organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated to yield 98.3 g of crude product. Vacuum distillation gave pure 1 (60.0 g; 55.3%) as a yellow oil: bp 177° C. @ 0.5 mm Hg. 1H-NMR (CDCl3) 8.72 (s, 1H), 7.4-6.9 (m, 7H), 3.50 (S, 3H); IR(neat) 3075, 2950, 1615, 1580, 1490, 1345, 1310, 1120; MS (m/e) 217 (M+, base).

reactant | N-methylformanilide | 0.50 mole, 67.6 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorus oxychloride | 0.50 mole, 45.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-aminothiazole | 0.48 mole, 48.0 g | NC=1SC=CN1 | C3H4N2S
solvent | toluene | 250 g | C1(=CC=CC=C1)C | C7H8
catalyst | 2-aminothiazole | 0.02 mole, 2.0 g | NC=1SC=CN1 | C3H4N2S
solvent | toluene | 25 g | C1(=CC=CC=C1)C | C7H8
product | N'-(2-THIAZOLYL)-N-METHYL-N-PHENYLFORMAMIDINE | 98.3 g | S1C(=NC=C1)N=CN(C1=CC=CC=C1)C | C11H11N3S
